### PR TITLE
clean up Lists

### PR DESCRIPTION
**Pull request by KihongHeo**
- Fix minor things
- More discussion needed (see my comments below)

### CODE REVIEW

File: LF/Lists.lean
Comment (KihongHeo) [inline LF/Lists.lean]: I don't see any conflicting definitions with the standard library once I remove this namespace. Am I missing something? @dsainati1

File: LF/Lists.lean [hunk 1]
```diff
@@ -183,7 +183,7 @@ The distinction is minor, but it is worth understanding that they
 are not the same. For instance, the following definitions are
 ill-formed:
 
-```display
+```lean +error
 -- Can't match on a pair with multiple patterns:
```
Comment (KihongHeo) [inline LF/Lists.lean:185]: In the HTML document, this sentence appears twice.
```
-- Can't match on a pair with multiple patterns:
-- Can't match on a pair with multiple patterns:
```

File: LF/Lists.lean
Comment (KihongHeo) [inline LF/Lists.lean:900]: In the html document,

```
-- FILL IN HERE
-- FILL IN HERE
```

The above sentence appears twice.

**Review by mwhicks1 — APPROVED** [review]

File: LF/Lists.lean
Comment (dsainati1) [reply LF/Lists.lean]: Removing this causes the build to break for me, because the syntax we define here makes uses of list notation in e.g. LF.lean to parse as a NatList. If you have a better way around that though I’m for it.

File: LF/Lists.lean (hunk 1 above)
Comment (bcpierce00) [reply LF/Lists.lean:185]: Looks OK now

File: LF/Lists.lean [hunk 2]
```diff
@@ -754,7 +754,7 @@ theorem member_add_same v t : member v (add v t) = true := by
     rw [BEq.refl]
     dsimp
 
-theorem member_add_diff v1 v2 t : (v1 == v2) = false -> member v1 (add v2 t) = member v1 t := by
+theorem member_add_diff v1 v2 t : (v1 == v2) = false → member v1 (add v2 t) = member v1 t := by
```
Comment (bcpierce00) [inline LF/Lists.lean:755]: This seems to be changing just a single -> to →.  If we're going to do this, we should do it globally.

**Comment by bcpierce00** [comment]
This looks good to go, except for my comment about the stray →.  Please go ahead and merge once this is fixed.

**Review by bcpierce00 — APPROVED** [review]

File: LF/Lists.lean
Comment (KihongHeo) [reply LF/Lists.lean]: I see. Thanks.

File: LF/Lists.lean (hunk 2 above)
Comment (KihongHeo) [reply LF/Lists.lean:755]: Fixed.
